* GF180MCU four-cell sequential Wilkinson conversion macro
.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical

.param VDD=3.3
.param TCOUNT=50n
VDD_SOURCE vdd 0 {VDD}
VBIAS_COMP bias_comp 0 0.85
VBIAS_RAMP bias_ramp 0 2.2

* Capture four ordered input levels before conversion starts.
VIN vin 0 PWL(0 0.5 35n 0.5 40n 0.8 75n 0.8 80n 1.1
+ 115n 1.1 120n 1.4 12u 1.4)
VS0 s0 0 PULSE(0 {VDD} 10n 200p 200p 20n 20u)
VS0B s0b 0 PULSE({VDD} 0 10n 200p 200p 20n 20u)
VS1 s1 0 PULSE(0 {VDD} 50n 200p 200p 20n 20u)
VS1B s1b 0 PULSE({VDD} 0 50n 200p 200p 20n 20u)
VS2 s2 0 PULSE(0 {VDD} 90n 200p 200p 20n 20u)
VS2B s2b 0 PULSE({VDD} 0 90n 200p 200p 20n 20u)
VS3 s3 0 PULSE(0 {VDD} 130n 200p 200p 20n 20u)
VS3B s3b 0 PULSE({VDD} 0 130n 200p 200p 20n 20u)

X0N vin s0 hold0 0 nfet_03v3 L=0.28u W=10u nf=10 m=1
X0P vin s0b hold0 vdd pfet_03v3 L=0.28u W=20u nf=10 m=1
X1N vin s1 hold1 0 nfet_03v3 L=0.28u W=10u nf=10 m=1
X1P vin s1b hold1 vdd pfet_03v3 L=0.28u W=20u nf=10 m=1
X2N vin s2 hold2 0 nfet_03v3 L=0.28u W=10u nf=10 m=1
X2P vin s2b hold2 vdd pfet_03v3 L=0.28u W=20u nf=10 m=1
X3N vin s3 hold3 0 nfet_03v3 L=0.28u W=10u nf=10 m=1
X3P vin s3b hold3 vdd pfet_03v3 L=0.28u W=20u nf=10 m=1
C0 hold0 0 1p
C1 hold1 0 1p
C2 hold2 0 1p
C3 hold3 0 1p
R0 hold0 0 1T
R1 hold1 0 1T
R2 hold2 0 1T
R3 hold3 0 1T

* One cell is selected during each 2.9 us conversion slot.
VSEL0 sel0 0 PULSE(0 {VDD} 180n 200p 200p 2700n 20u)
VSEL0B sel0b 0 PULSE({VDD} 0 180n 200p 200p 2700n 20u)
VSEL1 sel1 0 PULSE(0 {VDD} 3080n 200p 200p 2700n 20u)
VSEL1B sel1b 0 PULSE({VDD} 0 3080n 200p 200p 2700n 20u)
VSEL2 sel2 0 PULSE(0 {VDD} 5980n 200p 200p 2700n 20u)
VSEL2B sel2b 0 PULSE({VDD} 0 5980n 200p 200p 2700n 20u)
VSEL3 sel3 0 PULSE(0 {VDD} 8880n 200p 200p 2700n 20u)
VSEL3B sel3b 0 PULSE({VDD} 0 8880n 200p 200p 2700n 20u)

XM0N hold0 sel0 mux_bus 0 nfet_03v3 L=0.28u W=5u nf=5 m=1
XM0P hold0 sel0b mux_bus vdd pfet_03v3 L=0.28u W=10u nf=5 m=1
XM1N hold1 sel1 mux_bus 0 nfet_03v3 L=0.28u W=5u nf=5 m=1
XM1P hold1 sel1b mux_bus vdd pfet_03v3 L=0.28u W=10u nf=5 m=1
XM2N hold2 sel2 mux_bus 0 nfet_03v3 L=0.28u W=5u nf=5 m=1
XM2P hold2 sel2b mux_bus vdd pfet_03v3 L=0.28u W=10u nf=5 m=1
XM3N hold3 sel3 mux_bus 0 nfet_03v3 L=0.28u W=5u nf=5 m=1
XM3P hold3 sel3b mux_bus vdd pfet_03v3 L=0.28u W=10u nf=5 m=1
CBUS mux_bus 0 20f
RBUS mux_bus 0 10T

* Discharge the shared bus during each inter-slot guard interval.
VBUS_RESET bus_reset 0 PULSE({VDD} 0 170n 200p 200p 2710n 2900n)
XBUS_RESET mux_bus bus_reset 0 0 nfet_03v3 L=0.5u W=5u nf=5 m=1

* Shared ramp: reset in each guard interval, then rise once per selected cell.
VRESET reset 0 PULSE({VDD} 0 250n 1n 1n 2600n 2900n)
XRAMP_SOURCE ramp bias_ramp vdd vdd pfet_03v3 L=2u W=1u nf=1 m=1
XRAMP_RESET ramp reset 0 0 nfet_03v3 L=0.5u W=10u nf=5 m=1
CRAMP ramp 0 1p
RLEAK_RAMP ramp 0 10T

* Shared continuous-time comparator.
XINP left mux_bus tail 0 nfet_03v3 L=0.5u W=20u nf=10 m=1
XINN outa ramp tail 0 nfet_03v3 L=0.5u W=20u nf=10 m=1
XLOADD left left vdd vdd pfet_03v3 L=0.5u W=40u nf=10 m=1
XLOADM outa left vdd vdd pfet_03v3 L=0.5u W=40u nf=10 m=1
XTAIL tail bias_comp 0 0 nfet_03v3 L=1u W=20u nf=10 m=1
XBUF1 outb outa 0 0 nfet_03v3 L=0.28u W=4u nf=4 m=1
XBUF2 outb outa vdd vdd pfet_03v3 L=0.28u W=8u nf=4 m=1
XBUF3 compare_out outb 0 0 nfet_03v3 L=0.28u W=8u nf=4 m=1
XBUF4 compare_out outb vdd vdd pfet_03v3 L=0.28u W=16u nf=4 m=1
COUTA outa 0 20f
COUT compare_out 0 50f

.tran 50p 11600n
.measure tran start0 WHEN v(reset)=1.65 FALL=1
.measure tran start1 WHEN v(reset)=1.65 FALL=2
.measure tran start2 WHEN v(reset)=1.65 FALL=3
.measure tran start3 WHEN v(reset)=1.65 FALL=4
.measure tran cross0 WHEN v(compare_out)=1.65 FALL=1
.measure tran cross1 WHEN v(compare_out)=1.65 FALL=2
.measure tran cross2 WHEN v(compare_out)=1.65 FALL=3
.measure tran cross3 WHEN v(compare_out)=1.65 FALL=4
.measure tran time0 PARAM='cross0-start0'
.measure tran time1 PARAM='cross1-start1'
.measure tran time2 PARAM='cross2-start2'
.measure tran time3 PARAM='cross3-start3'
.measure tran code0 PARAM='floor(time0/TCOUNT)'
.measure tran code1 PARAM='floor(time1/TCOUNT)'
.measure tran code2 PARAM='floor(time2/TCOUNT)'
.measure tran code3 PARAM='floor(time3/TCOUNT)'
.measure tran mux0 FIND v(mux_bus) AT=230n
.measure tran mux1 FIND v(mux_bus) AT=3130n
.measure tran mux2 FIND v(mux_bus) AT=6030n
.measure tran mux3 FIND v(mux_bus) AT=8930n
.measure tran avg_power AVG par('-VDD*i(VDD_SOURCE)') FROM=250n TO=11500n

.control
set wr_singlescale
set wr_vecnames
run
wrdata work/four_cell_wilkinson.csv v(hold0) v(hold1) v(hold2) v(hold3) v(mux_bus) v(ramp) v(compare_out)
quit
.endc
.end
